US07312241B2
Bis-(2,3-dihydrobenzo[1,4]dioxin-6-yl)methanone (1.12 g, 3.75 mmol), cyanomethylphosphonic acid diethyl ester (1.18 ml, 7.51 mmol) in anhydrous THF (10 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 7.51 ml, 7.51 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (5% EtOAc in hexane gradient to 40% EtOAc in hexane in about 40 min.) to give a foam, which was lyophilized to give 3,3-bis-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-acrylonitrile as an light yellow solid (0.90 g, 75%): mp, 138-140° C.; 1HNMR (DMSO-d6) δ 6.98 (d, J=8 Hz, 1H, Ar), 6.91-6.77 (m, 5H, Ar), 6.08 (s, 1H, double bond proton), 4.33-4.24 (m, 4H, 2CH2CH2); 13C NMR (DMSO-d6) δ 160.4, 145.6, 144.7, 143.2, 143.1, 131.2, 130.0, 122.5, 121.9, 118.6, 117.9, 117.2, 117.1, 116.9, 93.3, 64.3, 64.2, 64.0, 64.0. Anal. Calcd. For C19H15NO4: C, 70.62; H, 4.74; N, 4.33. Found: C, 70.45; H, 4.67; N, 4.20.

reactant | Bis-(2,3-dihydrobenzo[1,4]dioxin-6-yl)methanone | 3.75 mmol, 1.12 g | O1CCOC2=C1C=CC(=C2)C(=O)C2=CC1=C(OCCO1)C=C2 | C17H14O5
reactant | cyanomethylphosphonic acid diethyl ester | 7.51 mmol, 1.18 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 7.51 mmol, 1.0 M, 7.51 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,3-bis-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-acrylonitrile | 0.90 g, 75% | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC1=C(OCCO1)C=C2 | C19H15NO4
